US03931177
A mixture of 3-[4-(2,3-epoxypropoxy)benzoyl]-N-methylpropionamide (20 g, 0.076 mole), methanol (200 ml) and isopropylamine (36 ml, 0.42 mole) was heated under reflux for 1 hour. Evaporation under reduced pressure gave 3-[4-(2-hydroxy-3-isopropylaminopropoxy)benzoyl]-N-methylpropionamide (24 g, 97%, m.p. 139°-142°C). Crystallisation from water gave the pure amide, m.p. 140°-142°C.

reactant | 3-[4-(2,3-epoxypropoxy)benzoyl]-N-methylpropionamide | 0.076 mole, 20 g | O1C(COC2=CC=C(C(=O)CCC(=O)NC)C=C2)C1 | C14H17NO4
reactant | isopropylamine | 0.42 mole, 36 ml | C(C)(C)N | C3H9N
solvent | methanol | 200 ml | CO | CH4O
product | 3-[4-(2-hydroxy-3-isopropylaminopropoxy)benzoyl]-N-methylpropionamide | 24 g, 97% | OC(COC1=CC=C(C(=O)CCC(=O)NC)C=C1)CNC(C)C | C17H26N2O4
